* G:\My Drive\Graduate Classes\Fall 2018\ECE 581\Baxter UTK Tiny Box Challenge\DAB.asc
L1 N004 N005 1
L2 N005 N007 1
L3 N006 N008 1
M1 N002 NC_01 N003 N003 NMOS
M2 N003 NC_02 0 0 NMOS
M3 N002 NC_03 N007 N007 NMOS
M4 N007 NC_04 0 0 NMOS
M5 N001 NC_05 N006 N006 NMOS
M6 N006 NC_06 0 0 NMOS
M7 N001 NC_07 N008 N008 NMOS
M8 N008 NC_08 0 0 NMOS
C1 N001 0 1µ
V1 N002 0 48
R1 N001 0 1
R2 N004 N003 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L3 L2 1
.tran 1
.backanno
.end
